US07569518B2
19.77 g of 6-methyl-5-(4-methylphenyl)-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one and 100 ml of phosphorus oxychloride were mixed and stirred at 110° C. for 1 hour. There action mixture was allowed to cool down to room temperature and concentrated under reduced pressure. To the residue was added chloroform and ice water, and was separated to two layer. The organic layer was washed sequentially with water and saturated brine, and dried over anhydrous sodium sulfate, then, concentrated under reduced pressure, to obtain 19.90 g of 3-chloro-6-methyl-5-(4-methylphenyl)-4-(2,4,6-trifluorophenyl)pyridazine (hereinafter, referred to as compound (xxii) of the present invention).

reactant | 6-methyl-5-(4-methylphenyl)-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one | 19.77 g | CC=1C(=C(C(NN1)=O)C1=C(C=C(C=C1F)F)F)C1=CC=C(C=C1)C | C18H13F3N2O
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-methyl-5-(4-methylphenyl)-4-(2,4,6-trifluorophenyl)pyridazine | 19.90 g | ClC=1N=NC(=C(C1C1=C(C=C(C=C1F)F)F)C1=CC=C(C=C1)C)C | C18H12ClF3N2
